US08441002B2
7.2 g of thiophene was dissolved in 100 ml of tetrahydrofuran and cooled to 0° C. To this solution, 56 ml of n-butyllithium solution (1.6 mol/l hexane solution) was added dropwise and stirred for 3.5 hours. To this solution, 25 g of hexadecylbromide was added dropwise and stirred at room temperature for 5.5 hours. 100 ml of water and 100 ml of dichloromethane were added to the resulting solution to separate the organic layer. The organic layer was washed with 300 ml of water and dried over anhydrous magnesium sulfate. The resulting solution was concentrated by a rotary evaporator and purified by a column chromatography (filler: silica gel, eluent: hexane) to obtain 4.4 g of 2-n-hexadecylthiophene represented by the following formula.

reactant | thiophene | 7.2 g | S1C=CC=C1 | C4H4S
reactant | n-butyllithium | 1.6 mol/l, 56 ml | C(CCC)[Li]
reactant | hexadecylbromide | 25 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-n-hexadecylthiophene | 4.4 g | C(CCCCCCCCCCCCCCC)C=1SC=CC1 | C20H36S
